US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-[(1S)-2-hydroxy-1-(isopropoxymethyl)ethoxy]pyrimidin-4-yl}-1-methyl-1H-imidazole-4-sulfonamide
The title compound was prepared according to the procedure outlined in example 34 using N-{6-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-(isopropoxymethyl)ethoxy]-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}-1-methyl-1H-imidazole-4-sulfonamide (the product from step (v) (90 mg) in THF (5 mL) and 1M solution of tetrabutylammoniumfluoride in THF (0.28 mL) to give the title compound as a white solid. Yield: 30 mg.

reactant | N-{6-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-(isopropoxymethyl)ethoxy]-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}-1-methyl-1H-imidazole-4-sulfonamide | [Si](C)(C)(C(C)(C)C)OC[C@H](OC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)NS(=O)(=O)C=1N=CN(C1)C)COC(C)C | C27H39F2N5O5S2Si
reactant | tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.28 mL | C1CCOC1 | C4H8O
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-[(1S)-2-hydroxy-1-(isopropoxymethyl)ethoxy]pyrimidin-4-yl}-1-methyl-1H-imidazole-4-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)C=2N=CN(C2)C)O[C@@H](CO)COC(C)C)C=CC=C1F | C21H25F2N5O5S2
